US08044213B2
A solution of 0.23 g (0.48 mmole) of 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.17a) in 9 mL mixture of acetonitrile and 2M hydrochloric acid (2:1) was heated at 60 degrees for 3 hours, cooled and concentrated under reduced pressure. The residue was diluted with dichloromethane and saturated sodium bicarbonate. The solid was collected by filtration, washed with water and dried to give 0.14 g of 2-(5-formyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.17b) as an orange solid. The filtrate was extracted twice with dichloromethane. The combined dichloromethane layers were washed with brine, dried over anhydrous sodium sulfate, concentrated under reduced pressure to give additional product of 0.046 g as an orange solid. The combined material was used directly in the next step without further purification.

reactant | 2-(5-dimethoxymethyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.48 mmole, 0.23 g | COC(C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-])OC | C20H17F3N4O5S
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(5-formyl-2-nitro-phenylamino)-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.14 g | C(=O)C=1C=CC(=C(C1)NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C18H11F3N4O4S
